US04057559
2-[(Butylthio)methylene]-6-ethylcyclohexanone (7, R1 = C2H5, R2 = H, R6 = n--C4H9S and n = 3)
A solution of 2-ethyl-6-(hydroxymethylene)cyclohexanone (43.0 g, 0.277 mole), described in Example 2, butylmercaptan (28.6 g, 0.318 mole) and p-toluenesulfonic acid (50 mg) in dry benzene (200 ml) is heated at reflux under nitrogen for 4 hr using a Dean-Stark water separator. The reaction mixture is cooled and washed with saturated aqueous sodium bicarbonate (50 ml), water and brine, then dried (MgSO4). After removal of the solvent at reduced pressure the residue is distilled to give the title compound, bp 110° - 115° C/1.5 mm, nmr (CDCl3) δ 0.92 (6H), 7.5 (m,1H).

reactant | 2-ethyl-6-(hydroxymethylene)cyclohexanone | 0.277 mole, 43.0 g | C(C)C1C(C(CCC1)=CO)=O | C9H14O2
reactant | butylmercaptan | 0.318 mole, 28.6 g | C(CCC)S | C4H10S
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-[(Butylthio)methylene]-6-ethylcyclohexanone | C(CCC)SC=C1C(C(CCC1)CC)=O | C13H22OS
